US08106045B2
A mixture of 4-((S)-oxiranyl)phenyl methanesulfonate (69 g, 322 mmol) and benzylamine (104 g, 971 mmol) was heated at 80° C. for 3 hours. An excess benzylamine was evaporated under reduced pressure and the residue was washed with diisopropyl ether to afford 4-((1S)-2-benzylamino-1-hydroxyethyl)phenyl methanesulfonate (71.0 g, 69%) as white crystals.

reactant | 4-((S)-oxiranyl)phenyl methanesulfonate | 322 mmol, 69 g | CS(=O)(=O)OC1=CC=C(C=C1)[C@@H]1OC1 | C9H10O4S
reactant | benzylamine | 971 mmol, 104 g | C(C1=CC=CC=C1)N | C7H9N
product | 4-((1S)-2-benzylamino-1-hydroxyethyl)phenyl methanesulfonate | 71.0 g, 69% | CS(=O)(=O)OC1=CC=C(C=C1)[C@@H](CNCC1=CC=CC=C1)O | C16H19NO4S
